US07820654B2
Step (ii). Synthesis of 1-[4-(4-methanesulfonyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol
1-[4-(4-Methylsulfanyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol was oxidized (0.27 g, 0.69 mmol) with oxone (1.6 g, 2.76 mmol) in acetone-water (3:1) at room temperature for 1 hour.

reactant | 1-[4-(4-Methylsulfanyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol | CSC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C22H24N4OS
reactant | oxone | 2.76 mmol, 1.6 g | OOS(=O)[O-].[K+]
reactant | acetone water | CC(=O)C.O
product | 1-[4-(4-methanesulfonyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol | CS(=O)(=O)C1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C22H24N4O3S
